US05180419
Preparation of 7-(4-Isopropyl-4-methyl-5-oxo-2imidazolin-2-yl) -6-benzo[b]thiophene carboxylic acid
A mixture of methyl 7-(4-isopropyl-4methyl-5-oxo-2-imidazolin-2-yl)-6-benzo [b]thiophene carboxylate (90% pure, 0.420 g, 1.20 mmol), aqueous sodium hydroxide (1.01 mL, 2.53 mmol) and tetrahydrofuran (15 mL) is stirred overnight at 40°-45° C., cooled to room temperature, concentrated in vacuo, and acidified to pH 1-2 with concentrated sulfuric acid. Extraction with ethyl acetate, drying (MgSO4), concentration and recrystallization from acetonitrile:hexanes (9:1) affords the title product as an off-white solid, 0.22 g, mp 200°-202° C.

reactant | methyl 7-(4-isopropyl-4methyl-5-oxo-2-imidazolin-2-yl)-6-benzo [b]thiophene carboxylate | 1.20 mmol, 0.420 g | C(C)(C)C1(N=C(NC1=O)C1=C(C=CC2=C1SC=C2)C(=O)OC)C | C17H18N2O3S
reactant | sodium hydroxide | 2.53 mmol, 1.01 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 7-(4-Isopropyl-4-methyl-5-oxo-2imidazolin-2-yl) -6-benzo[b]thiophene carboxylic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C=CC2=C1SC=C2)C(=O)O)C | C16H16N2O3S
